US07098356B2
(2-(4-fluorophenylmethyl)inden-1-yl)-N-(1,1-dimethylethyl)dimethylsilanamine.
To a mixture of 2-(4-fluorophenylmethyl)indene (2.21 g, 9.9 mmol) in 45 mL of hexanes were added 6.5 mL of butyl lithium (1.6 M hexane; 10.4 mmol). The mixture was stirred overnight, the mother liquor decanted and the solid dissolved in THF. To this was added N-(1,1-dimethylethyl)dimethylsilanamine chloride (1.80 g, 10.8 mmol) and the reaction heated at reflux for three hours. The volatiles were removed in vacuo, the residue extracted with hexane, filtered and the volatiles removed in vacuo to give 3.39 g (97 percent) of a yellow oil.

reactant | 2-(4-fluorophenylmethyl)indene | 9.9 mmol, 2.21 g | FC1=CC=C(C=C1)CC=1CC2=CC=CC=C2C1 | C16H13F
reactant | butyl lithium | 10.4 mmol, 1.6 M, 6.5 mL | C(CCC)[Li]
reactant | N-(1,1-dimethylethyl)dimethylsilanamine chloride | 10.8 mmol, 1.80 g | [Cl-].CC(C)(C)N[SiH](C)C
product | (2-(4-fluorophenylmethyl)inden-1-yl)-N-(1,1-dimethylethyl)dimethylsilanamine | 3.39 g, 97 percent | FC1=CC=C(C=C1)CC=1C(C2=CC=CC=C2C1)[Si](NC(C)(C)C)(C)C | C22H28FNSi
